US08865623B2
A mixture of 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (200 mg, 0.57 mmol), 3-fluorophenol (320 mg, 2.83 mmol), cesium carbonate (400 mg, 1.13 mmol), copper(II) trifluoromethanesulfonate (10 mg, 0.03 mmol), and powdered 3 Å molecular sieves (400 mg) in toluene (3.5 ml) is heated to 160° C. under microwave irradiation for 60 minutes. The mixture is cooled to room temperature, poured into 2M aqueous hydrochloric acid, diluted with dichloromethane and filtered through a phase separation cartridge. The organic phase is collected. The solvent is evaporated under reduced pressure and the residue is purified by column chromatography on silica gel to give 4-[2-ethyl-5-(3-fluorophenoxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.57 mmol, 200 mg | BrC=1C=CC(=C(C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
reactant | 3-fluorophenol | 2.83 mmol, 320 mg | FC=1C=C(C=CC1)O | C6H5FO
reactant | cesium carbonate | 1.13 mmol, 400 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) trifluoromethanesulfonate | 0.03 mmol, 10 mg | FC(S(=O)(=O)[O-])(F)F.[Cu+2].FC(S(=O)(=O)[O-])(F)F
product | 4-[2-ethyl-5-(3-fluorophenoxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione | C(C)C1=C(C=C(C=C1)OC1=CC(=CC=C1)F)C1C(C(OC(C1=O)(C)C)(C)C)=O | C23H25FO4
